US07863305B2
3-Methylamino-1-phenyl-propan-1-ol (1.65 g, 10 mmole) was dissolved in methylene chloride (5 ml), and trifluoroacetic anhydride (5 g, 23.8 mmole) was added in portions. Following the brief exotherm which caused the solvent to boil, the mixture was evaporated to dryness and azeotroped twice with methylene chloride and once with toluene to remove any excess anhydride. The residue was taken up in methylene chloride, applied to a short silica gel column, and eluted with 3:7 ethyl acetate:hexane. The product thus isolated was pumped dry to afford trifluoro-acetic acid 3-[methyl-(2,2,2-trifluoro-acetyl)-amino]-1-phenyl-propyl ester, which was used in the following step without further purification.

reactant | 3-Methylamino-1-phenyl-propan-1-ol | 10 mmole, 1.65 g | CNCCC(O)C1=CC=CC=C1 | C10H15NO
reactant | trifluoroacetic anhydride | 23.8 mmole, 5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | trifluoro-acetic acid 3-[methyl-(2,2,2-trifluoro-acetyl)-amino]-1-phenyl-propyl ester | CN(CCC(C1=CC=CC=C1)OC(C(F)(F)F)=O)C(C(F)(F)F)=O | C14H13F6NO3
